US06710069B2
Preparation of 4-(2-Chloroethoxy)-1-(phenylsulfonyl)-1H-indazole
A stirred solution of 4-(2-chloroethoxy)-1H-indazole (1.1 g, 5.59 mmol) in tetrahydrofuran is treated with NaH (0.335 g, 60% in mineral oil, 8.39 mmol) under nitrogen at room temperature, stirred for 30 minutes, treated with benzenesulfonyl chloride (0.86 ml, 6.71 mmol), stirred at room temperature for 18 hr, quenched with water and diluted with ethyl acetate. The phases are separated and the organic phase is washed with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane: 3/7) to give the desired product as a white solid, 1.75 g (93%), mp 102-104° C., identified by NMR and mass spectral analyses.

reactant | 4-(2-chloroethoxy)-1H-indazole | 5.59 mmol, 1.1 g | ClCCOC1=C2C=NNC2=CC=C1 | C9H9ClN2O
reactant | NaH | 8.39 mmol, 0.335 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 6.71 mmol, 0.86 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-Chloroethoxy)-1-(phenylsulfonyl)-1H-indazole | ClCCOC1=C2C=NN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C15H13ClN2O3S
